* C:\Users\david\Desktop\École\Université\Undergrad\Work\finalproject\Real\Transients\Draft3.asc
C1 b 0 0.3m
R1 a b 2k
V1 a 0 SINE(0 1 1K)
.tran 10m
.backanno
.end
